US04731367
Under nitrogen, 122 mg (0.29 mmol) of 3-[9,10-didehydro-2-(3-hydroxy-3-methyl-1-butynyl)-6-methyl-8α-ergolinyl]-1,1-diethylurea is heated for 2 hours under reflux in 15 ml of absolute toluene after adding 64 mg (1.6 mmol) of pulverized sodium hydroxide. The solvent is then removed by distillation and the residue extracted in ethyl acetate with water and saturated sodium chloride solution. The crude product obtained from the ethyl acetate solution after drying with magnesium sulfate and concentration is purified by column chromatography on 80 g of silica gel with ethyl acetate/ethanol 2:1 as the eluent. Reprecipitation from ethyl acetate/ether/hexane produces 3-(9,10-didehydro-2-ethynyl-8α-ergolinyl)-1,1-diethylurea in a 25% yield.

reactant | 3-[9,10-didehydro-2-(3-hydroxy-3-methyl-1-butynyl)-6-methyl-8α-ergolinyl]-1,1-diethylurea | 0.29 mmol, 122 mg | OC(C#CC1=C2C[C@H]3N(C[C@H](C=C3C=3C=CC=C(N1)C32)NC(N(CC)CC)=O)C)(C)C | C25H32N4O2
reactant | sodium hydroxide | 1.6 mmol, 64 mg | [OH-].[Na+]
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(9,10-didehydro-2-ethynyl-8α-ergolinyl)-1,1-diethylurea | 25% yield | C(#C)C1=C2C[C@H]3NC[C@H](C=C3C=3C=CC=C(N1)C32)NC(N(CC)CC)=O | C21H24N4O
